US07858624B2
To a solution of (R)-tert-butyl 2-((S)-(6-fluoro-3′-methylbiphenyl-2-yl)(2-hydroxyethoxy)methyl)morpholine-4-carboxylate (498 mg, 1.12 mmol) in dry CH2Cl2 (15 mL) was added Et3N (472 mg, 4.68 mmol) at ˜0 to −5° C. A solution of MsCl (267 mg, 2.34 mmol) in dry CH2Cl2 (10 mL) was added dropwise at the same temperature. The mixture was allowed to warm to rt gradually. Tlc showed the stating material had disappeared. Water (10 mL) was added and the aqueous layer was extracted with CH2Cl2 (3×20 mL). The combined organic layers were washed with 10% aq citric acid, satd aq NaHCO3 and brine, dried over Na2SO4, filtered and concentrated to afford crude (R)-tert-butyl 2-((S)-(6-fluoro-3′-methylbiphenyl-2-yl)(2-(methylsulfonyloxy)ethoxy)methyl)morpholine-4-carboxylate (554 mg, 95%). which was used in the next step without further purification. MS (E/Z): 524 (M+H+)

reactant | (R)-tert-butyl 2-((S)-(6-fluoro-3′-methylbiphenyl-2-yl)(2-hydroxyethoxy)methyl)morpholine-4-carboxylate | 1.12 mmol, 498 mg | FC1=CC=CC(=C1C1=CC(=CC=C1)C)[C@@H]([C@H]1CN(CCO1)C(=O)OC(C)(C)C)OCCO | C25H32FNO5
reactant | Et3N | 4.68 mmol, 472 mg | CCN(CC)CC | C6H15N
reactant | MsCl | 2.34 mmol, 267 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | 10 mL | O | H2O
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (R)-tert-butyl 2-((S)-(6-fluoro-3′-methylbiphenyl-2-yl)(2-(methylsulfonyloxy)ethoxy)methyl)morpholine-4-carboxylate | 554 mg, 95% | FC1=CC=CC(=C1C1=CC(=CC=C1)C)[C@@H]([C@H]1CN(CCO1)C(=O)OC(C)(C)C)OCCOS(=O)(=O)C | C26H34FNO7S
